US05332731
(d) Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydrofuran-3-yl)thio-3-cephem-4-carboxylate
Vilthmyer reagent was prepared from dimethylformamide (52 mg) and trichloromethyl chloroformate (60 mg) in dichloromethane (1 ml) according to standard method. The Vilsmier reagent as prepared was cooled to -40° C., to which was then added a suspension of (Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid (266 mg) in dichloromethane (2 ml) and the resulting mixture was further stirred at -20° C. for 30 minutes to give a first solution. On the other hand, the diphenylmethyl 7-amino-3-(tetrahydrofuran-3-yl)thio-3-cephem-4-carboxylate hydrochloride (255 mg) was suspended in dichloromethane (2 ml), to which was added N,O-bistrimethylsilylacetamide (0.25 ml) to give a second, clear solution. The latter, second solution was added to the former, first solution, i.e. the solution containing the acetic acid derivative as activated with the Vilthmyer reagent as above, and the resulting mixture was stirred under ice-cooling for 60 minutes to effect the N-acylation reaction. The resulting reaction solution, after adding ice-cooled water thereto, was stirred well and then separated into organic and aqueous layers.

reactant | dimethylformamide | 52 mg | CN(C=O)C | C3H7NO
reactant | trichloromethyl chloroformate | 60 mg | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid | 266 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C25H21N3O3S
reactant | diphenylmethyl 7-amino-3-(tetrahydrofuran-3-yl)thio-3-cephem-4-carboxylate hydrochloride | 255 mg | Cl.NC1[C@@H]2N(C(=C(CS2)C2COCC2)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydrofuran-3-yl)thio-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2COCC2)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C49H43N5O5S3
